US08912188B2
To a solution of methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (100 mg, 0.34 mmol) in dioxane (5.0 mL) was added (1-benzofuran-5-yl)boronic acid (215.6 mg, 1.33 mmol), K3PO4 (280.6 mg, 1.33 mmol), Pd(PPh3)4 (25.56 mg, 0.02 mmol) and water (3 drops) with stirring for 1 h at 90° C. in an oil bath under an inert atmosphere of nitrogen. The reaction mixture was concentrated under vacuum to give a residue, which was purified by a silica gel column with 1% ethyl acetate in petroleum ether to afford methyl 2-(1-benzofuran-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate as a light yellow solid (105 mg, crude). LC/MS (ES, m/z): 376.0

reactant | methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.34 mmol, 100 mg | ClC1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C14H16ClN3O2
reactant | (1-benzofuran-5-yl)boronic acid | 1.33 mmol, 215.6 mg | O1C=CC2=C1C=CC(=C2)B(O)O | C8H7BO3
reactant | K3PO4 | 1.33 mmol, 280.6 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 25.56 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(1-benzofuran-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | O1C=CC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C(C)C)C)C(=O)OC | C22H21N3O3
